US06693123B2
4-Hydroxyethyl-2-aminobenzoic Acid Methyl Ester
To a solution of dimethylaminoterphthalate (3.07 g, 14.7 mmol) in 30 mL of a 2:1 mixture of THF: Et2O at −78° C. was added neat DIBAL (6.27 g, 44.1 mmol, 3.0 eq.) and the reaction was warmed to 0° C. over 4 hours. The reaction was quenched with 5 mL of methanol followed by 5 mL of saturated aqueous sodium tartrate. The mixture was stirred overnight and then was taken up in ethyl acetate. The layers were separated and the ethyl acetate layer was washed with saturated aqueous NaHCO3and brine and then dried over Na2SO4, filtered and evaporated to an oil. Purification by chromatography on silica gel (50% ethyl acetate-hexane) gave the desired compound (1.03 g, 39%) of 1b as a colorless oil.

reactant | dimethylaminoterphthalate | 14.7 mmol, 3.07 g | CN(C)C1=C(C(=O)[O-])C=CC(=C1)C(=O)[O-]
reactant | THF | C1CCOC1 | C4H8O
reactant | DIBAL | 44.1 mmol, 6.27 g, 3.0 eq. | CC(C)C[AlH]CC(C)C
solvent | Et2O | CCOCC | C4H10O
product | 4-Hydroxyethyl-2-aminobenzoic Acid Methyl Ester | 1.03 g, 39% | COC(C1=C(C=C(C=C1)CCO)N)=O | C10H13NO3
